US09085555B2
A. (1R,3S,5R)-3-[3-Bromo-5-(1H-tetrazol-5-yl)-phenylcarbamoyl]-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester
To a solution of (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester (250 mg, 1.1 mmol) in CH2Cl2 (6 mL) was added 3-bromo-5-(1H-tetrazol-5-yl)-phenylamine dihydrochloride (prepared as described in Part C, 365 mg, 1.32 mmol), HBTU (626 mg, 1.65 mmol) and DIPEA (0.576 ml, 3.3 mmol). The reaction mixture was stirred at RT overnight. The reaction mixture was diluted with CH2Cl2 and successively washed with 1M aqueous HCl solution (30 mL) and a saturated aqueous NaHCO3 solution. The organic phase was dried (phase separator) and evaporated under vacuum. The crude mixture was purified by preparative HPLC (C18 Nucleosil 100-10, flow: 40 ml/min, eluent: 5-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA). After combination of the purified fractions, CH3CN was removed under vacuum and lyophilization gave the desired compound. MS (LC/MS): 447.1 [M−H]−; tR (HPLC conditions k): 4.62 min.

reactant | (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester | 1.1 mmol, 250 mg | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)O | C11H17NO4
reactant | 3-bromo-5-(1H-tetrazol-5-yl)-phenylamine dihydrochloride | 1.32 mmol, 365 mg | Cl.Cl.BrC=1C=C(C=C(C1)C1=NN=NN1)N
reactant | HBTU | 1.65 mmol, 626 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 3.3 mmol, 0.576 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | (1R,3S,5R)-3-[3-Bromo-5-(1H-tetrazol-5-yl)-phenylcarbamoyl]-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(NC1=CC(=CC(=C1)C1=NN=NN1)Br)=O | C18H21BrN6O3
